US09382224B2
Synthesis of 5-hydroxy-2-methyl-4-oxo-4H-chromen-7-yl hexadecanoate (Ia)
5,7-Dihydroxymethylchromone (15 g, 78 mmol) is dissolved in N,N-dimethylformamide (360 ml), and potassium tert-butoxide (9 g, 80 mmol) is added to the brown solution under a stream of nitrogen. The mixture is subsequently heated at 30° C. for 2.5 h. Palmitoyl chloride (24 ml, 79.5 mmol) in N,N-dimethylformamide (80 ml) is then slowly added dropwise to the solution at 30° C. The resultant suspension is stirred at 30° C. for a further 2 hours, and 400 ml of DI water are then added dropwise. After 1 hour, the solid is filtered off with suction via a suction filter, dried well by suction and dried at 40° C. in a vacuum drying cabinet.

reactant | 5,7-Dihydroxymethylchromone | 78 mmol, 15 g | OCC1=C2C(C=COC2=CC(=C1)CO)=O | C11H10O4
reactant | potassium tert-butoxide | 80 mmol, 9 g | CC(C)([O-])C.[K+]
reactant | Palmitoyl chloride | 79.5 mmol, 24 ml | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | DI water | 400 ml | O | H2O
reactant | N,N-dimethylformamide | 360 ml | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 5-hydroxy-2-methyl-4-oxo-4H-chromen-7-yl hexadecanoate | C(CCCCCCCCCCCCCCC)(=O)OC1=CC(=C2C(C=C(OC2=C1)C)=O)O | C26H38O5
